US07338959B2
N2-(4-Chloro-benzyl)-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example one with N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (103 mg, 0.25 mmol) and 4-[(methylsulfonyl)methyl]aniline (46 mg, 0.25 mmol) as a white solid (61 mg, 41%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.20 (s, 1H), 7.76-7.80 (m, 3H), 7.36-7.43 (m, 5H), 7.24 (d, J=8.1 Hz, 2H), 7.08 (d, J=1.8 Hz, 1H), 6.85 (dd, J=8.1 and 1.8 Hz, 1H), 5.63 (d, J=6.0 Hz, 1H), 4.58 (d, J=5.7 Hz, 2H), 4.34 (s, 2H), 3.58 (s, 3H), 3.43 (s, 3H), 2.85 (s, 3H). MS (ESI) m/z=562 [M+H]+.

reactant | N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 103 mg | ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C)C3=NC(=NC=C3)Cl)C=C1 | C20H18Cl2N6
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.25 mmol, 46 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | N2-(4-Chloro-benzyl)-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C)C3=NC(=NC=C3)NC3=CC=C(C=C3)CS(=O)(=O)C)C=C1 | InChI=1S/C28H28ClN7O2S.ClH/c1-35(26-14-15-30-27(34-26)32-22-10-6-20(7-11-22)18-39(3,37)38)23-12-13-25-24(16-23)33-28(36(25)2)31-17-19-4-8-21(29)9-5-19;/h4-16H,17-18H2,1-3H3,(H,31,33)(H,30,32,34);1H
